US07977331B1
Methyl 4-amino-3-{2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionylamino}benzoate (0.73 g, 1.16 mmol) was dissolved in acetic acid (14.0 ml), and the mixture was stirred at 100° C. for 2 hr. The mixture was allowed to cool to room temperature, toluene was added, and the solvent was evaporated under reduced pressure. To the obtained residue were added methanol and water. The precipitate was collected by filtration, washed with water, and dried in vacuo to give methyl 2-{1-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-1-methylethyl}-3H-benzimidazole-5-carboxylate (0.67 g, yield 95%).

reactant | Methyl 4-amino-3-{2-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-2-methylpropionylamino}benzoate | 1.16 mmol, 0.73 g | NC1=C(C=C(C(=O)OC)C=C1)NC(C(C)(C)NC(=O)C=1C=CC2=C(N3CCOC4=C(C3=C2C2CCCCC2)C=CC(=C4)OC)C1)=O | C36H40N4O6
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 14.0 ml | C(C)(=O)O | C2H4O2
product | methyl 2-{1-[(12-cyclohexyl-3-methoxy-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-1-methylethyl}-3H-benzimidazole-5-carboxylate | 0.67 g, yield 95% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC)C=C(C=C2)C(=O)NC(C)(C)C=2NC4=C(N2)C=CC(=C4)C(=O)OC | C36H38N4O5
